US05112836
Methyl 5,6-dihydro-1,2-dioxo-4H-pyrrolo[3,2,1-ij]quinoline-6-carboxylate
A solution of methyl 1,2,3,4-tetrahydroquinoline-4-carboxylate (51.0 g) in tetrahydrofuran (THF, 200 ml) was heated under refluxing and a solution of oxalyl chloride (30 ml) in dry THF was added thereto. The mixture was refluxed for 4 hours, then cooled and concentrated. The residue was dissolved in carbon disulfide (800 ml) and aluminum chloride (66.7 g) was added portionwise. The mixture was refluxed for 4 hours, and then allowed to stand overnight. The solvent was eliminated by decantation and to the residue was added ice-water (1 litter). The mixture was extracted with chloroform. The chloroform layer was washed well with water, dried over anhydrous sodium sulfate and concentrated to give the title compound (55.15 g, 83.3%) which was recrystallized from acetonitrile to dark red crystals, mp 135° C.-136° C.

reactant | methyl 1,2,3,4-tetrahydroquinoline-4-carboxylate | 51.0 g | N1CCC(C2=CC=CC=C12)C(=O)OC | C11H13NO2
reactant | oxalyl chloride | 30 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | Methyl 5,6-dihydro-1,2-dioxo-4H-pyrrolo[3,2,1-ij]quinoline-6-carboxylate | 55.15 g, 83.3% | O=C1C(N2CCC(C3=CC=CC1=C23)C(=O)OC)=O | C13H11NO4
